US05773463
(±)cis-1-(4-tert-Butylphenoxy)-2-methylaminoindane Hydrochloride (E36)
To a solution of LiAlH4 (730 mg, 19 mmol) in dry tetrahydrofuran (30 ml) under argon was added dropwise a solution of (±)cis-1-(4-tert-butylphenoxy)-2-tert-butoxycarbonylaminoindane (1.4 g, 3.7 mmol) in dry tetrahydrofuran (60 ml). The reaction was heated at reflux for 3 h then cooled with an ice/water bath and quenched with the minimum of water. The reaction was filtered and dried over MgSO4. Solvents were removed in vacuo and the residue subjected to column chromatography on silica gel eluting with 5% ethanol in chloroform to afford a colourless oil (618 mg,) which was converted to the HCl salt and crystallised to afford the title compound as a white solid. m.p. >218° C. dec. (from methanol-diethyl ether).

reactant | LiAlH4 | 19 mmol, 730 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (±)cis-1-(4-tert-butylphenoxy)-2-tert-butoxycarbonylaminoindane | 3.7 mmol, 1.4 g | C(C)(C)(C)C1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC(=O)OC(C)(C)C)C=C1 | C24H31NO3
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
product | (±)cis-1-(4-tert-Butylphenoxy)-2-methylaminoindane Hydrochloride | Cl.C(C)(C)(C)C1=CC=C(O[C@H]2[C@H](CC3=CC=CC=C23)NC)C=C1 | InChI=1S/C20H25NO.ClH/c1-20(2,3)15-9-11-16(12-10-15)22-19-17-8-6-5-7-14(17)13-18(19)21-4;/h5-12,18-19,21H,13H2,1-4H3;1H/t18-,19+;/m0./s1
